US07547691B2
(D). Preparation of (2-{5-methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-yl)-carbamic acid tert-butyl ester
A mixture of [2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophen-6-yl]-carbamic acid tert-butyl ester (0.32 g, 0.85 mmol) and 1-(3-aminopropyl)-4-methylpiperazine (0.41 g, 2.6 mmol) in 1,4-dioxane (15 mL) is refluxed for 48 hours. Solvent is removed and the residue is chromatographed on silica gel, eluting with 2.0 M NH3/MeOH in dichloromethane 0-10%, to obtain the title compound as a yellow solid (0.33 g, 78% yield). ES+(m/z) 497 [M+H].

reactant | [2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophen-6-yl]-carbamic acid tert-butyl ester | 0.85 mmol, 0.32 g | C(C)(C)(C)OC(NC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)Cl)C1)=O | C18H18ClN3O2S
reactant | 1-(3-aminopropyl)-4-methylpiperazine | 2.6 mmol, 0.41 g | NCCCN1CCN(CC1)C | C8H19N3
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (2-{5-methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-yl)-carbamic acid tert-butyl ester | 0.33 g, 78% yield | C(C)(C)(C)OC(NC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C)C1)=O | C26H36N6O2S
